US04571396
1-Ethyl-6,8-difluoro-1,4-dihydro-4-oxo-7-[5-(phenylmethyl)-2,5-diazabicyclo(2.2.1)hept-2-yl]-3-quinolinecarboxylic acid
A solution of 0.54 g (2.0 mmol) of 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 0.77 g (2.2 mmol) of 5-(phenylmethyl)-2,5-diazabicyclo(2.2.1)heptane dihydrobromide, (P. S. Portoghese and A. A. Mikhail, J. Org. Chem. 31, 1059 (1966)], 0.90 ml (6.0 mmol) of 1,8-diazabicyclo(5.4.0)undec-7-ene, and 20 ml of acetonitrile was heated under reflux for two hours and stirred at room temperature for two days. The mixture was filtered and the solid was washed with methanol to give 0.44 g of the title compound, mp 195°-198° C.

reactant | 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 2.0 mmol, 0.54 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | 5-(phenylmethyl)-2,5-diazabicyclo(2.2.1)heptane dihydrobromide | 2.2 mmol, 0.77 g | Br.Br.C1(=CC=CC=C1)CN1C2CNC(C1)C2
reactant | 1,8-diazabicyclo(5.4.0)undec-7-ene | 6.0 mmol, 0.90 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-Ethyl-6,8-difluoro-1,4-dihydro-4-oxo-7-[5-(phenylmethyl)-2,5-diazabicyclo(2.2.1)hept-2-yl]-3-quinolinecarboxylic acid | 0.44 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1C2CN(C(C1)C2)CC2=CC=CC=C2)F)=O)C(=O)O | C24H23F2N3O3
